US07459451B2
To a solution of triethyl phosphonoacetate (219 mg) in THF (2 ml) was added potassium tert-butoxide (103 mg) at 0° C. and the mixture was stirred at room temperature for 30 minutes. A solution of 6-[(cyclopropylmethoxy)methyl]-1-ethyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (190 mg) in THF (4 ml) was added at 0° C. and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:1) to give ethyl (2E)-3-[6-[(cyclopropylmethoxy)methyl]-1-ethyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate (183 mg) as a yellow oil.

reactant | potassium tert-butoxide | 103 mg | CC(C)([O-])C.[K+]
reactant | 6-[(cyclopropylmethoxy)methyl]-1-ethyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 190 mg | C1(CC1)COCC1=C(C(=C2C(=N1)N(N=C2)CC)C=2C=NC=C(C2)C)C=O | C20H22N4O2
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl (2E)-3-[6-[(cyclopropylmethoxy)methyl]-1-ethyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate | 183 mg | C1(CC1)COCC1=C(C(=C2C(=N1)N(N=C2)CC)C=2C=NC=C(C2)C)/C=C/C(=O)OCC | C24H28N4O3
